US07157454B2
A) 3-Amino-3-(3,5-dimethoxyphenyl)propionic acid
A mixture of 5 g of 3,5-dimethoxybenzaldehyde, 3.13 g of malonic acid and 4.64 g of ammonium acetate in 50 ml of EtOH is refluxed for 5 hours. The reaction mixture is concentrated under vacuum, the residue is taken up in water, insoluble material is filtered off, the filtrate is washed with DCM and the aqueous phase is concentrated under vacuum. The residue is taken up in water and concentrated under vacuum again. The residue is taken up in EtOH and the solvent is evaporated off under vacuum. 2.96 g of the expected product are obtained.

reactant | 3,5-dimethoxybenzaldehyde | 5 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | malonic acid | 3.13 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 4.64 g | C(C)(=O)[O-].[NH4+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | 3-Amino-3-(3,5-dimethoxyphenyl)propionic acid | 2.96 g | NC(CC(=O)O)C1=CC(=CC(=C1)OC)OC | C11H15NO4
